US05622982
f) 1-Azido-1-(5-chloro-2-pyridyl)-2-(1H-imidazol-1-yl)ethane
0.92 g of 1-chloro-(5-chloro-2-pyridyl)-2-(1H-imidazol-1-yl)ethane are added under argon to a solution of 0.37 g of lithium azide in 2 ml of dry dimethylformamide and the reaction mixture is stirred at 60° for 18 hours. Working up according to process A (see Example 1) gives the substance as a yellowish oil.

reactant | 1-chloro-(5-chloro-2-pyridyl)-2-(1H-imidazol-1-yl)ethane | 0.92 g | ClC(CN1C=NC=C1)C1=NC=C(C=C1)Cl | C10H9Cl2N3
reactant | lithium azide | 0.37 g | [N-]=[N+]=[N-].[Li+]
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 1-Azido-1-(5-chloro-2-pyridyl)-2-(1H-imidazol-1-yl)ethane | N(=[N+]=[N-])C(CN1C=NC=C1)C1=NC=C(C=C1)Cl | C10H9ClN6
